US06639029B1
2-ureidoethyl methacrylate;
heterocyclic (meth)acrylates such as 2-(1-imidazolyl)ethyl (meth)acrylate, 2-(4-morpholinyl)ethyl (meth)acrylate and 1-(2-methacryloyloxyethyl)-2-pyrrolidone.

reactant | 2-(1-imidazolyl)ethyl (meth)acrylate | CC(=C)C(=O)OCCN1C=CN=C1 | C9H12N2O2
reactant | 1-(2-methacryloyloxyethyl)-2-pyrrolidone | C(C(=C)C)(=O)OCCN1C(CCC1)=O | C10H15NO3
product | 2-ureidoethyl methacrylate | C(C(=C)C)(=O)OCCNC(=O)N | C7H12N2O3
